US06867204B2
A solution of 2-(2,6-dibromo-phenoxy)acetamide (9.3 g, 0.03 mol) in tetrahydrofuran (100 mL) was heated to reflux and borane-dimethylsulfide (4.5 mL, 0.045 mL) was added in drops over a period of 15 min. After 3 h, 20 mL of ethanolic hydrogen chloride (2M, 0.4 mol) was added. The solution was refluxed for 30 min. Upon cooling to ambient temperature a white solid precipitated which was filtered and washed with diethyl ether (20 mL) to give 2-(2,6-dibromo-phenoxy)ethylamine, hydrochloride salt (7.25 g, 73.3%). MS: MH+=294. M.p. 249.7-252.3° C.

reactant | 2-(2,6-dibromo-phenoxy)acetamide | 0.03 mol, 9.3 g | BrC1=C(OCC(=O)N)C(=CC=C1)Br | C8H7Br2NO2
reactant | borane dimethylsulfide | 4.5 mL | B.CSC
reactant | hydrogen chloride | 0.4 mol, 2M, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(2,6-dibromo-phenoxy)ethylamine, hydrochloride salt | 7.25 g, 73.3% | Cl.BrC1=C(OCCN)C(=CC=C1)Br | InChI=1S/C8H9Br2NO.ClH/c9-6-2-1-3-7(10)8(6)12-5-4-11;/h1-3H,4-5,11H2;1H
